US07012075B2
To methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinate (375 mg, 0.793 mmol) in MeOH (20 mL) was added an aqueous solution of LiOH (2.0 M, 2.0 mL, 4.0 mmol) and the reaction mixture was stirred for 2 hours. An additional aliquot of aqueous LiOH (2.0 M, 2.0 mL, 4.0 mmol) was added and the reaction mixture was stirred for 1 hour. The reaction was acidified (pH=4–5) with aqueous 10% HCl, brine was added and the product extracted with EtOAc (3×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (Hex/EtOAc/AcOH, 50/49/1) to afford N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucine.

reactant | methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinate | 0.793 mmol, 375 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NON1)N[C@@H](CC(C)C)C(=O)OC | C24H35N5O5
reactant | LiOH | 4.0 mmol, 2.0 M, 2.0 mL | [Li+].[OH-]
reactant | LiOH | 4.0 mmol, 2.0 M, 2.0 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucine | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NON1)N[C@@H](CC(C)C)C(=O)O | C23H33N5O5
